US04592866
8-Hydroxy-2-methyl-7-quinolinecarboxylic acid methyl ester
8-Hydroxy-2-methyl-7-quinolinecarboxylic acid (as reported by Meek, W. H. et al., in J. Chem. Eng. Data 1969, 14(3), 388-91) is reacted with methanolic boron trifluoride solution for several hours. The resulting mixture is added to an aqueous solution of sodium bicarbonate to give finally a basic solution. The solution is extracted with chloroform. The chloroform extract is dried over anhydrous sodium sulfate and concentrated and the residue is crystallized from a suitable solvent such as isooctane to give the title compound.

reactant | 8-Hydroxy-2-methyl-7-quinolinecarboxylic acid | OC=1C(=CC=C2C=CC(=NC12)C)C(=O)O | C11H9NO3
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 8-Hydroxy-2-methyl-7-quinolinecarboxylic acid methyl ester | COC(=O)C1=CC=C2C=CC(=NC2=C1O)C | C12H11NO3
